US07893086B2
tert-Butyl 4-((2-(2-aminophenyl)thiazolo[5,4-b]pyridin-6-yl)methyl)piperazine-1-carboxylate (85 mg, 0.2 mmol) was taken up in 3 mL of DMF along with 3-(1H-tetrazol-5-yl)benzoic acid (38 mg, 0.2 mmol), HATU (114 mg, 0.3 mmol) and DIEA (35 mL, 0.4 mmol). The reaction mixture was stirred at 50° C. (18 h). It was then diluted with EtOAc (15 mL) and washed with water (3 mL×3). The organic layer was dried (Na2SO4) and concentrated in vacuo to afford crude tert-butyl 4-((2-(2-(3-(1H-tetrazol-5-yl)benzamido)phenyl)thiazolo[5,4-b]pyridin-6-yl)methyl)piperazine-1-carboxylate. This material was taken up in 5 mL of 25% TFA in CH2Cl2 and was allowed to stand at room temperature (18 h). The reaction mixture was concentrated in vacuo and the resulting residue was purified by reverse-phase HPLC to afford 12 mg of N-(2-(6-(piperazin-1-ylmethyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)-3-(1H-tetrazol-5-yl)benzamide as a light yellow solid. 1H NMR (300 MHz, DMSO-d6) δ 9.5 (br s, 2H), 7.5-9.1 (m, 10H), 4.5 (br s, 1H), 3.5-4.0 (m, 10H). MS (ESI) calcd for C25H23N9OS (m/z): 497.17, found: 498.2 (M+1)+.

reactant | tert-Butyl 4-((2-(2-aminophenyl)thiazolo[5,4-b]pyridin-6-yl)methyl)piperazine-1-carboxylate | 0.2 mmol, 85 mg | NC1=C(C=CC=C1)C=1SC2=NC=C(C=C2N1)CN1CCN(CC1)C(=O)OC(C)(C)C | C22H27N5O2S
reactant | 3-(1H-tetrazol-5-yl)benzoic acid | 0.2 mmol, 38 mg | N1N=NN=C1C=1C=C(C(=O)O)C=CC1 | C8H6N4O2
reactant | HATU | 0.3 mmol, 114 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.4 mmol, 35 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | tert-butyl 4-((2-(2-(3-(1H-tetrazol-5-yl)benzamido)phenyl)thiazolo[5,4-b]pyridin-6-yl)methyl)piperazine-1-carboxylate | N1N=NN=C1C=1C=C(C(=O)NC2=C(C=CC=C2)C=2SC3=NC=C(C=C3N2)CN2CCN(CC2)C(=O)OC(C)(C)C)C=CC1 | C30H31N9O3S
